US04870063
(4-Thiomorpholinylmethylene)-bisphosphonic acid
Oxalyl chloride (16.6 ml) was added dropwise at 0° C. to a stirred solution of N-formyl-thiomorpholine (26.2 g) in methylene chloride (200 ml). The mixture was stirred at room temperature until the gas evolution ceased (about 5 hours later). Triethyl phosphite (66 ml) was then added during 1.5 hours at room temperature. Unreacted triethyl phosphite was removed in vacuo, and the residue was refluxed with 20% hydrochloric acid (150 ml) for 3 hours. The mixture was evaporated to dryness in vacuo, and the residue was stirred with acetone. The crystalline product was filtered and recrystallized from water. M.p.: >250° C. (dec.).

reactant | Oxalyl chloride | 16.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-formyl-thiomorpholine | 26.2 g | C(=O)N1CCSCC1 | C5H9NOS
reactant | Triethyl phosphite | 66 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (4-Thiomorpholinylmethylene)-bisphosphonic acid | N1(CCSCC1)C(P(O)(O)=O)P(O)(O)=O | C5H13NO6P2S
